US09403773B2
Carboethoxymethylene triphenylphosphorane (41.52 g, 119.2 mmol) was added to a toluene solution (100 ml) of 2,2,2-trifluoro-N-(5-fluoro-2-propoxyphenyl)acetamide (15.83 g, 59.1 mmol). The mixture was stirred under a nitrogen atmosphere while heating under reflux for 4 hours. The reaction mixture was cooled to room temperature, concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1). The purified product was concentrated under reduced pressure to thereby obtain 19.7 g of oily yellow ethyl ester of 4,4,4-trifluoro-3-(5-fluoro-2-propoxyphenylamino)buta-2-enoic acid (yield: 99%).

reactant | Carboethoxymethylene triphenylphosphorane | 119.2 mmol, 41.52 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 2,2,2-trifluoro-N-(5-fluoro-2-propoxyphenyl)acetamide | 59.1 mmol, 15.83 g | FC(C(=O)NC1=C(C=CC(=C1)F)OCCC)(F)F | C11H11F4NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4,4-trifluoro-3-(5-fluoro-2-propoxyphenylamino)buta-2-enoic acid | yield: 99% | FC(C(=CC(=O)O)NC1=C(C=CC(=C1)F)OCCC)(F)F | C13H13F4NO3
